US05013863
A solution of 5.0 g of 3-aminopropylphosphinic acid in 200 ml of water is cooled to 5° , and the pH adjusted to 9.5 with 2 molar sodium hydroxide solution. To this mixture is added 6.8 g of benzyl chloroformate whilst maintaining the pH and temperature. After the addition is complete the mixture is stirred for 3 hours at pH 9.5 at room temperature and left to stand overnight. The mixture is then extracted with 100 ml of ether and the aqueous layer stirred at 5° with an equal volume of chloroform. The mixture is acidified to pH 2, the chloroform layer separated, dried over magnesium sulfate and the solvent evaporated under reduced pressure. The oily product is triturated with ether to give a white solid, 3-(N-benzyloxycarbonylamino)propylphosphinic acid, m.p. 53-55°, 31P-NMR : δ=+36.6 ppm (CDCl3).

reactant | 3-aminopropylphosphinic acid | 5.0 g | NCCCP(O)=O | C3H10NO2P
reactant | sodium hydroxide | 2 molar | [OH-].[Na+]
reactant | benzyl chloroformate | 6.8 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | water | 200 ml | O | H2O
product | 3-(N-benzyloxycarbonylamino)propylphosphinic acid | C(C1=CC=CC=C1)OC(=O)NCCCP(O)=O | C11H16NO4P
